US06818640B1
To a solution of 2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine (0.26 g) in N,N-dimethylformamide (2 ml) was added under ice-cooling 60% sodium hydride (0.05 g). The mixture was stirred for 30 minutes. Ethyliodide (0.17 g) was added thereto. The mixture was stirred at room temperature for 2 hours. To a reaction mixture was added water (30 ml), extracted with diethylether (60 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to give 3-ethyl-2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine (0.21 g, yield: 71%) as colorless oil.

reactant | 2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine | 0.26 g | C(C)(C)C1=C(C=CC=C1)N=C1SCC(C=N1)(C)C | C15H20N2S
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | Ethyliodide | 0.17 g | C(C)I | C2H5I
reactant | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-ethyl-2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine | 0.21 g, yield: 71% | C(C)N1C(SCC(C1)(C)C)=NC1=C(C=CC=C1)C(C)C | C17H26N2S
